US07091220B2
5-Benzyloxy-3-[(2-methoxyphenyl)-pyrrolidin-1-yl-methyl]-1H-indole
The preparation was carried out in accordance with general synthesis instructions 4 from 5-benzyloxy-1H-indole and 1-(2-methoxy-benzylidene)-pyrrolidinium chloride, which had been prepared in accordance with example 24.

reactant | 5-benzyloxy-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | 1-(2-methoxy-benzylidene)-pyrrolidinium chloride | [Cl-].COC1=C(C=[N+]2CCCC2)C=CC=C1
product | 5-Benzyloxy-3-[(2-methoxyphenyl)-pyrrolidin-1-yl-methyl]-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C(N1CCCC1)C1=C(C=CC=C1)OC | C27H28N2O2
